US05389666
2-(3,3-Dibromo-2-propenyl)-5-methoxy-1,2,3,4-tetrahydronaphthalene
To a solution of carbon tetrabromide (19.5 g) in methylene chloride (50 ml) was added triphenylphosphine (30.8 g) at 0° C., and the mixture was stirred for 10 min. To the mixture was added a solution of 2-formylmethyl-5-methoxy1,2,3,4-tetrahydronaphthalene (4.09 g; the compound prepared by method described in the specification of the Japanese Patent Application No. 3-130467) in methylene chloride (25 ml) at 0° C. The mixture was stirred for 30 min at 0° C. To the mixture was gradually added n-hexane, and filtrated to remove triphenylphosphineoxide. The filtrate was washed with water and a saturated aqueous solution of sodium chloride, successively, dried over anhydrous magnesium sulfate, and evaporated. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=24:1) to give the title compound (6.42 g) having the following physical data.

reactant | carbon tetrabromide | 19.5 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 30.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-formylmethyl-5-methoxy1,2,3,4-tetrahydronaphthalene | C(=O)CC1CC2=CC=CC(=C2CC1)OC | C13H16O2
reactant | n-hexane | CCCCCC | C6H14
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 2-(3,3-Dibromo-2-propenyl)-5-methoxy-1,2,3,4-tetrahydronaphthalene | 6.42 g | BrC(=CCC1CC2=CC=CC(=C2CC1)OC)Br | C14H16Br2O
